US09062039B2
To a well stirred solution of (E)-3-(dimethylamino)-1-(4-methyl-2-(methylamino)thiazol-5-yl) prop-2-en-1-one (2 mmol) in 50 ml methanol N-chlorosuccinimide (2.5 mmol) was added. The reaction mixture was stirred for 30 minutes. The mixture was evaporated to dryness and the residue was purified by column chromatography using EtoAc to yield (Z)-2-chloro-3-(dimethylamino)-1-(4-methyl-2-(methylamino)thiazol-5-yl)prop-2-en-1-one as light yellow solid (43%). 1H-NMR (DMSO-d6) δ: 2.37 (s, 3H, CH3), 2.98 (s, 3H, CH3), 3.25 (s, 6H, 2×CH3), 6.43 (s, 1H, NH), 7.42 (s, 1H, CH). HR-MS (m/z): calcd for C10H14ClN3OS, 259.0546; found 260.0541 [M+H]+.

reactant | (E)-3-(dimethylamino)-1-(4-methyl-2-(methylamino)thiazol-5-yl) prop-2-en-1-one | 2 mmol | CN(/C=C/C(=O)C1=C(N=C(S1)NC)C)C | C10H15N3OS
reactant | methanol N-chlorosuccinimide | 2.5 mmol, 50 ml | ClN1C(CCC1=O)=O.CO
product | (Z)-2-chloro-3-(dimethylamino)-1-(4-methyl-2-(methylamino)thiazol-5-yl)prop-2-en-1-one | 43% | Cl\C(\C(=O)C1=C(N=C(S1)NC)C)=C/N(C)C | C10H14ClN3OS
